US08486967B2
a) 2-Nitropyridin-3-yl trifluoromethanesulfonate
To an ice-cold solution of 2-nitropyridin-3-ol (10.0 g, 71 mmol) and triethylamine (14.9 mL, 107 mmol) in methylene chloride (150 mL) was added dropwise triflic anhydride (14.5 mL, 86 mmol) and the mixture was stirred for 2 hours. Water was added and the mixture extracted with methylene chloride. The organic phase was dried with sodium sulfate and the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel using n-heptane/ethyl acetate (v/v 2:8 to 3:7) as eluent. The title compound was obtained as a light brown liquid (18.4 g, 95%).

reactant | 2-nitropyridin-3-ol | 71 mmol, 10.0 g | [N+](=O)([O-])C1=NC=CC=C1O | C5H4N2O3
reactant | triethylamine | 107 mmol, 14.9 mL | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 86 mmol, 14.5 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-Nitropyridin-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C(=NC=CC1)[N+](=O)[O-])(F)F | C6H3F3N2O5S
